US07125896B2
b) 5-Bromo-2-(cyclopentyloxy)pyridine
Prepared from 2,5-dibromopyridine and cyclopentanol by the method of Example 10 (b).

reactant | 2,5-dibromopyridine | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | cyclopentanol | C1(CCCC1)O | C5H10O
product | 5-Bromo-2-(cyclopentyloxy)pyridine | BrC=1C=CC(=NC1)OC1CCCC1 | C10H12BrNO
